US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-acetylamino-pyridin-3-ylmethyl)-amide (19)
A chilled (0° C.) solution of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-amino-pyridin-3-ylmethyl)-amide (40.0 mg, 0.111 mmol) in DMF (1 mL) was treated with 4-dimethylaminopyridine (1 mg, 0.01 mmol), DIEA (0.39 mL, 2.2 mmol) and acetic anhydride (0.062 mL, 0.66 mmol). The mixture was allowed to gradually warm to room temperature. The solution was diluted with ethyl acetate (30 mL) and washed with saturated aqueous NH4Cl (3×10 mL), saturated aqueous NaHCO3 (20 mL) and brine (20 mL). The organic layer was dried over MgSO4, filtered and concentrated.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-amino-pyridin-3-ylmethyl)-amide | 0.111 mmol, 40.0 mg | NC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C20H16FN5O
reactant | DIEA | 2.2 mmol, 0.39 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 0.66 mmol, 0.062 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.01 mmol, 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-acetylamino-pyridin-3-ylmethyl)-amide | C(C)(=O)NC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C22H18FN5O2
